US08912180B2
Methyl trans-4-[({4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(morpholin-4-yl)pyrimidin-2-yl}amino)methyl]cyclohexane carboxylate (150 mg) was dissolved in a mixed solvent of methanol (750 μL) and tetrahydrofuran (750 μL), and a 1 M aqueous sodium hydroxide solution (899 mL) was added thereto, followed by stirring at room temperature for 2 hours. After the completion of the reaction, 1 M hydrochloric acid was added thereto under ice-cooling until the reaction solution became weakly acidic, followed by stirring at 0° C. for 1 hour. The resulting solid was collected by filtration and washed with hexane to obtain trans-4-[({4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(morpholin-4-yl)pyrimidin-2-yl}amino)methyl]cyclohexanecarboxylic acid (74 mg) as a white powder.

reactant | Methyl trans-4-[({4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(morpholin-4-yl)pyrimidin-2-yl}amino)methyl]cyclohexane carboxylate | 150 mg | FC(C1=NC2=C(N1C1=NC(=NC(=C1)N1CCOCC1)NC[C@@H]1CC[C@H](CC1)C(=O)OC)C=CC=C2)F | C25H30F2N6O3
reactant | sodium hydroxide | 1 M, 899 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | methanol | 750 μL | CO | CH4O
solvent | tetrahydrofuran | 750 μL | O1CCCC1 | C4H8O
product | trans-4-[({4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(morpholin-4-yl)pyrimidin-2-yl}amino)methyl]cyclohexanecarboxylic acid | 74 mg | FC(C1=NC2=C(N1C1=NC(=NC(=C1)N1CCOCC1)NC[C@@H]1CC[C@H](CC1)C(=O)O)C=CC=C2)F | C24H28F2N6O3
